US08486962B2
A solution of sodium hydrogen carbonate (10.5 g, 119.8 mmol) in water (125 ml) was added to 2-methyl-1-(2-oxo-2-phenyl-ethyl)-pyridinium bromide (35.0 g, 119.8 mmol) and the reaction heated to reflux for 30 min. The resultant solid was filtered, washed with water and then dried under vacuum to yield 2-phenyl-indolizine (16.0 g, 70%).

reactant | sodium hydrogen carbonate | 119.8 mmol, 10.5 g | C(O)([O-])=O.[Na+]
reactant | 2-methyl-1-(2-oxo-2-phenyl-ethyl)-pyridinium bromide | 119.8 mmol, 35.0 g | [Br-].CC1=[N+](C=CC=C1)CC(C1=CC=CC=C1)=O
solvent | water | 125 ml | O | H2O
product | 2-phenyl-indolizine | 16.0 g, 70% | C1(=CC=CC=C1)C=1C=C2C=CC=CN2C1 | C14H11N
